US08080568B1
Preparation of 4-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-5-(6-methylpyridin-2-yl)-1H-imidazole-2-carbaldehyde (a compound of the formula (VII) wherein Ra═CH3)
6-(2-(Dimethoxymethyl)-5-(6-methylpyridin-2-yl)-1H-imidazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridine (6.00 g, 17.12 mmol) was dissolved in 1 N HCl (120 mL), and the mixture was heated at 70° C. for 3 h. The reaction mixture was allowed to cool to 0° C., and then it was neutralized with saturated aqueous NaHCO3 solution. The mixture was extracted with 10% MeOH in CHCl3 (3×200 mL), and the organic phase was dried over anhydrous Na2SO4, filtered, and evaporated to dryness under reduced pressure to give the titled compound (4.69 g, 90%) as a light yellow solid. 1H NMR (400 MHz, CDCl3): δ 9.82 (s, 1H), 9.01 (br s, 1H), 8.41 (s, 1H), 7.85 (dd, 1H, J=9.2, 0.8 Hz), 7.82 (dd, 1H, J=9.2, 1.6 Hz), 7.55 (t, 1H, J=7.8 Hz), 7.33 (br s, 1H), 7.16 (d, 1H, J=8.0 Hz), 2.60 (s, 3H).

reactant | 6-(2-(Dimethoxymethyl)-5-(6-methylpyridin-2-yl)-1H-imidazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridine | 17.12 mmol, 6.00 g | COC(C=1NC(=C(N1)C=1C=CC=2N(C1)N=CN2)C2=NC(=CC=C2)C)OC | C18H18N6O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HCl | 1 N, 120 mL | Cl | ClH
product | 4-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-5-(6-methylpyridin-2-yl)-1H-imidazole-2-carbaldehyde | 4.69 g, 90% | N=1C=NN2C1C=CC(=C2)C=2N=C(NC2C2=NC(=CC=C2)C)C=O | C16H12N6O
